US05693811
Platinum (IV) oxide (2.3 g) was added to a solution of 4-amino-α,α,2-trimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol (10 g, 32 mmole, U.S. Pat. No. 5,266,575 Comparative Example C1) in trifluoroacetic acid (200 mL). The mixture was hydrogenated at 50 psi (3.44×105Pa) for 5 days. The catalyst was removed by filtration. The filtrate was concentrated under vacuum. The residue was diluted with water then combined with aqueous 10% sodium hydroxide. This mixture was stirred for one hour. A precipitate was isolated by filtration and dried to provide 9.7 g of 4-amino-α,α,2-trimethyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-ethanol as solid, m.p. 290°-292° C. Analysis: Calculated for C15H22N4O: % C, 65.67; % H, 8.08; % N, 20.42; Found % C, 65.45; % H, 7.68; % N, 20.52.

reactant | 4-amino-α,α,2-trimethyl-1H-imidazo[4,5-c]quinoline-1-ethanol | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(O)(C)C)C | C15H18N4O
solvent | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum (IV) oxide | 2.3 g | [Pt](=O)=O
product | 4-amino-α,α,2-trimethyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1-ethanol | 9.7 g | NC1=NC=2CCCCC2C2=C1N=C(N2CC(O)(C)C)C | C15H22N4O
